US05399720
110.2 g of methyl 2-acetyloctanoate (the product of Example 1a) were added dropwise under argon and while stirring at 0°-5° to a suspension of 14.4 g of sodium hydride 97% in 750 ml of THF. The mixture was stirred at room temperature for 1 hour and subsequently cooled to -12°. 370 ml of 1.56M butyllithium in hexane were added within 1 hour at -12° to -10°. The mixture was stirred at -12° for 1 hour. 92.2 g of lauric aldehyde were added dropwise at -10° to the solution obtained. The mixture was stirred at this temperature for a further 1 hour. The reaction solution was added to 600 ml of water within 5 minutes while stirring. The mixture was stirred at room temperature for a further 1 hour and subsequently neutralized with 100 ml of 37% hydrochloric acid. After separating the aqueous phase the organic phase was washed with 300 ml of saturated sodium chloride solution, dried over sodium sulphate and the drying agent was filtered off under suction. After evaporation of the solvent the product was triturated with hexane. The crystallizate was filtered off under suction, washed with hexane and dried. 130.61 g (74.1%) of rac-5,6-dihydro-3-hexyl-4-hydroxy-6-undecyl-2H-pyran-2-one, m.p. 121.5°-122.5°, resulted.

reactant | methyl 2-acetyloctanoate | 110.2 g | C(C)(=O)C(C(=O)OC)CCCCCC | C11H20O3
reactant | sodium hydride | 14.4 g | [H-].[Na+]
reactant | butyllithium | 1.56M, 370 ml | C(CCC)[Li]
reactant | lauric aldehyde | 92.2 g | CCCCCCCCCCCC=O | C12H24O
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | THF | 750 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | 600 ml | O | H2O
product | rac-5,6-dihydro-3-hexyl-4-hydroxy-6-undecyl-2H-pyran-2-one | 130.61 g, 74.1% | C(CCCCC)C=1C(OC(CC1O)CCCCCCCCCCC)=O | C22H40O3
